US09029536B2
F) 3-Bromo-1-ethyl-1H-pyrazolo[4,3-d]pyrimidine
To a solution of 1-ethyl-1H-pyrazolo[4,3-d]pyrimidine (300 mg) in DMF (6 mL) was added NBS (721 mg) at room temperature, and the mixture was stirred at 80° C. overnight. The mixture was poured into water and extracted with AcOEt. The organic layer was washed with brine, dried over Na2SO4, filtered and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (AcOEt/hexane) to give the title compound (310 mg). 1H NMR (300 MHz, CDCl3) δ 1.62 (3H, t, J=7.3 Hz), 4.54 (2H, q, J=7.3 Hz), 9.14 (1H, s), 9.17 (1H, s).

reactant | 1-ethyl-1H-pyrazolo[4,3-d]pyrimidine | 300 mg | C(C)N1N=CC=2N=CN=CC21 | C7H8N4
reactant | NBS | 721 mg | C1CC(=O)N(C1=O)Br | C4H4BrNO2
reactant | water | O | H2O
solvent | DMF | 6 mL | CN(C)C=O | C3H7NO
product | 3-Bromo-1-ethyl-1H-pyrazolo[4,3-d]pyrimidine | 310 mg | BrC1=NN(C2=C1N=CN=C2)CC | C7H7BrN4
